US07592362B2
(2,3-Dimethylphenyl)(1H-imidazol-2-yl)methanol
To a solution of 1-(diethoxymethyl)-1H-imidazole (698 mg, 4.10 mmol) in anhydrous tetrahydrofuran (7 ml), at −78° C., was added n-butyllithium (2.5 M in hexane, 1.64 ml, 4.1 mmol). The reaction mixture was stirred at −78° C. for 1 h, before addition of a solution of 2,3-dimethylbenzaldehyde (500 mg, 3.73 mmol) in tetrahydrofuran (3 ml). The reaction mixture was stirred at −78° C. for 2 h, warmed to room temperature and quenched with ice cold hydrochloric acid (4M, 20 ml). The reaction mixture was concentrated in vacuo and to the residue was added water (20 ml). The solution was extracted with diethyl ether (2×20 ml) and the aqueous layer was basified by addition of solid sodium hydrogen carbonate. This solution was extracted with ethyl acetate (3×20 ml) and the combined organic phases were dried (MgSO4) and concentrated in vacuo to give the title compound (543 mg)

reactant | 1-(diethoxymethyl)-1H-imidazole | 4.10 mmol, 698 mg | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
reactant | n-butyllithium | 4.1 mmol, 2.5 M, 1.64 ml | C(CCC)[Li]
reactant | 2,3-dimethylbenzaldehyde | 3.73 mmol, 500 mg | CC1=C(C=O)C=CC=C1C | C9H10O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2,3-Dimethylphenyl)(1H-imidazol-2-yl)methanol | 543 mg | CC1=C(C=CC=C1C)C(O)C=1NC=CN1 | C12H14N2O
